US07214673B2
(S)-4-Benzyl-2-(2-hydroxy-ethyl)-piperazine-1-carboxylic acid tert-butyl ester
Combine (S)-2-(4-benzylpiperazin-2-yl)ethanol (3.08 g, 14.0 mmol) in methylenechloride (30 mL) and di-tert-butyl dicarbonate (3.2 g, 14.7 mmol) in 5 mL CH2Cl2 and add dropwise at room temperature. After 1 hour, quench the reaction mixture by adding water, extract with CH2Cl2, wash with water and brine, and dry over Na2SO4. Purification by silica gel chromatography of the crude product by using MeOH/CH2Cl2 (5% to 10%) as the eluent, gives 3.17 g (Yield 71%) of title compound: 1H NMR (400 MHz, CDCl3): δ7.37–7.23 (m, 5H), 4.27–4.10 (m, 1H), 4.02–3.80 (m, 211), 3.61–3.23 (m, 4H), 3.00 (t, 1H, J=10 Hz), 2.71–2.56 (m, 2H), 2.24–2.22 (m, 2H), 2.01 (dt, 1H, J=3.4, 12.2 Hz), 1.46 (s, 9H).

reactant | (S)-2-(4-benzylpiperazin-2-yl)ethanol | 14.0 mmol, 3.08 g | C(C1=CC=CC=C1)N1C[C@@H](NCC1)CCO | C13H20N2O
reactant | di-tert-butyl dicarbonate | 14.7 mmol, 3.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylenechloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-Benzyl-2-(2-hydroxy-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 3.17 g, Yield 71% | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCO | C18H28N2O3
